*BZG05C9V1 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*9.1V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C9V1 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  8.592
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=238P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=55.7F RS=0.319 N=0.72)
.ENDS